US07084154B2
A solution of 6-methoxy-3,4-dihydro-1H-naphthalen-2-one (176 mg, Aldrich, U.S.A.), acetic acid (0.57 mL), methylamine (2.0 M in tetrahydrofuran, 5.0 mL), and sodium cyanoborohydride (64 mg) was stirred in 5 mL methanol for 20 h. The solution was acidified to a pH<2 with concentrated hydrochloric acid, diluted with water to a volume of 50 mL, and extracted with 50 mL of dichloromethane. The aqueous phase was made basic (pH>10) by the addition of 1 M sodium hydroxide and extracted with two 50 mL aliquots of dichloromethane. The basic dichloromethane extracts were dried in vacuo to yield 80 mg of (6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)methylamine.

reactant | 6-methoxy-3,4-dihydro-1H-naphthalen-2-one | 176 mg | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | methylamine | 2.0 M, 5.0 mL | CN | CH5N
reactant | sodium cyanoborohydride | 64 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
solvent | acetic acid | 0.57 mL | C(C)(=O)O | C2H4O2
product | (6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)methylamine | 80 mg | COC=1C=C2CCC(CC2=CC1)CN | C12H17NO
